US07153854B2
To a solution of Meldrum's acid (30 g, 0.208 mol) in dichloromethane (420 mL) was added pyridine (33.7 mL, 0.416 mol) over 3 minutes in an ice-methanol bath under nitrogen atmosphere (−9° C.). To this mixture was added dropwise a solution of methoxyacetyl chloride (24.8 g) in dichloromethane (180 mL) over 1 hour period at the temperature. After addition, the reaction mixture was stirred at the temperature for 1 hour and at ambient temperature for 2 hours. The mixture was quenched with 1N hydrochoric acid (600 mL). The organic layer was separated and the aqueous layer was extracted with dichloromethane. The combined organic layer was washed with brine, dried over magnesium sulfate, and evaporated in vacuo to give 5-(methoxyacetyl)-2,2-dimethyl-1,3-dioxane-4,6-dione as dark orange oil (38.1 g, 84.7%).

reactant | Meldrum's acid | 0.208 mol, 30 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | pyridine | 0.416 mol, 33.7 mL | N1=CC=CC=C1 | C5H5N
reactant | methoxyacetyl chloride | 24.8 g | COCC(=O)Cl | C3H5ClO2
solvent | dichloromethane | 420 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 180 mL | ClCCl | CH2Cl2
product | 5-(methoxyacetyl)-2,2-dimethyl-1,3-dioxane-4,6-dione | 38.1 g, 84.7% | COCC(=O)C1C(OC(OC1=O)(C)C)=O | C9H12O6
